### PR TITLE
chore: adaptations for nightly-2025-10-19

### PR DESCRIPTION
**Pull request by kim-em**

### CODE REVIEW

File: Mathlib/Algebra/Order/Ring/Unbundled/Rat.lean [hunk 1]
```diff
@@ -120,7 +120,10 @@ instance : AddLeftMono ℚ where
 
 theorem div_lt_div_iff_mul_lt_mul {a b c d : ℤ} (b_pos : 0 < b) (d_pos : 0 < d) :
     (a : ℚ) / b < c / d ↔ a * d < c * b := by
-  grind [lt_iff_le_not_ge, Rat.divInt_le_divInt, div_def', num_intCast, den_intCast]
```
Comment (kim-em) [inline Mathlib/Algebra/Order/Ring/Unbundled/Rat.lean:123]: See discussion at [#mathlib reviewers > caution using &#96;grind&#96; with arithmetic heavy lemmas @ 💬](https://leanprover.zulipchat.com/#narrow/channel/345428-mathlib-reviewers/topic/caution.20using.20.60grind.60.20with.20arithmetic.20heavy.20lemmas/near/545458166)

File: Mathlib/Algebra/Polynomial/RuleOfSigns.lean [hunk 2]
```diff
@@ -244,6 +244,7 @@ private lemma exists_cons_of_leadingCoeff_pos (η) (h₁ : 0 < leadingCoeff P) (
     by_cases h₉ : ((X - C η) * P).nextCoeff = 0
     · suffices ((X - C η) * P).eraseLead = ((X - C η) * P.eraseLead).eraseLead by
         have := coeffList_eraseLead (mul_ne_zero (X_sub_C_ne_zero η) h₃)
+        have : ((X - C η) * P).natDegree - ((X - C η) * P).eraseLead.degree.succ = n + 1 := by grind
```
Comment (kim-em) [inline Mathlib/Algebra/Polynomial/RuleOfSigns.lean:252]:
```suggestion
        #adaptation_note
        /--
        Moving from `nightly-2025-10-13` to `nightly-2025-10-19`
        we now need to provide an intermediate step.
        -/
        have : ((X - C η) * P).natDegree - ((X - C η) * P).eraseLead.degree.succ = n + 1 := by grind
```
